US04002755
To a solution of 2.4 g of 2-hydrazino-4-phenyl-6-chloroquinazoline in 50 ml of tetrahydrofuran was added dropwise 2.52 g of trifluoroacetic anhydride and the mixture was stirred at room temperature for 4 hours. Then, the mixture was poured into ice-water and extracted with chloroform. The chloroform extract was washed with a dilute aqueous sodium bicarbonate solution, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The resulting residue was crystallized from isopropyl ether to obtain colorless 2-(2-trifluoroacetylhydrazino)-4-phenyl-6-chloroquinazoline, m.p. 207° - 207.5° C.

reactant | 2-hydrazino-4-phenyl-6-chloroquinazoline | 2.4 g | N(N)C1=NC2=CC=C(C=C2C(=N1)C1=CC=CC=C1)Cl | C14H11ClN4
reactant | trifluoroacetic anhydride | 2.52 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(2-trifluoroacetylhydrazino)-4-phenyl-6-chloroquinazoline | FC(C(=O)NNC1=NC2=CC=C(C=C2C(=N1)C1=CC=CC=C1)Cl)(F)F | C16H10ClF3N4O
